Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Amoxicillin / Biaxin / aspirin / NSAIDS (Non-Steroidal 
Anti-Inflammatory Drug) / Pravachol / kidney related medications
 
Attending: ___.
 
Chief Complaint:
cough, weakness
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ M w/ PMH HTN, HLD, CAD, CKD, Afib (amiodarone),
hypothyroidism, gout, & chronic sinusitis, presents with cough.
Patient has been doing well since discharge for CAP 
approximately
1 month ago. Yesterday, patient developed fatigue,
lightheadedness, and new nonproductive cough. Symptoms 
associated
with mild shortness of breath. Patient otherwise denies any
fevers, chills, nausea, vomiting, chest pain, abdominal pain.
Patient does endorse frequent urination over the past couple 
days
without dysuria.

Patient followed by pulmonology for hypersensitivity pneumonitis
(attributed to mold) and has been on a prednisone taper since
moving to his own apt. 

In the ED, initial VS were:  99.6 80 117/58 17 100% RA Tmax: 
101.3

ECG:  NSR @ 86, NA, NI, No acute ST/T-wave changes

Labs showed:  FluB positive, WBC:11.0  HGB:10.7 Cr 1.9 from
baseline 1.7, D-Dimer: 216, lactate 1.8

Imaging showed:  CXR without acute cardiopulmonary abnormality.

Patient received:  

___ 14:34 IH Albuterol 0.083% Neb Soln 1 NEB  
___ 14:34 IH Ipratropium Bromide Neb 1 NEB   
___ 18:45 PO Acetaminophen 1000 mg 
___ 20:23 IVF  NS 500 mL   
___ 20:23 PO/NG OSELTAMivir 30 mg  
___ 22:13 IVF  LR 500 mL  

Transfer VS were:  100.2 77 ___ 94% RA 

On arrival to the floor, patient reports feeling "shaky". He
further expanded this to mean he felt weak, particularly with
walking. His breathing is at baseline. He endorses urinary
frequency without dysuria. 
 
Past Medical History:
- paroxysmal atrial fibrillation, on amiodarone and rivaroxaban
- CKD
- CAD
- hypothyroidism
- hypertension
- hyperlipidemia
- gout
- chronic sinusitis
- sleep apnea
- history of TIA
- history of GI bleed
 
Social History:
___
Family History:
Family history is negative for premature coronary artery 
disease,cardiomyopathy, sudden death, or arrhythmia. No history
of lung diseases or autoimmune diseases. FH of HTN,
hypothyroidism. Father had history of lung ca (smoker).
 
Physical Exam:
ADMISSION PHYSICAL EXAM  
VS:  99.0 PO 130 / 69 70 18 93 Ra 
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, +expiratory wheezing
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: trace to 1+ pitting edema ___ shins
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, ___ strength ___ ___: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE PHYSICAL EXAM
VS: Temp: 98.2 PO BP: 147/70 HR: 78 RR: 18 O2 sat: 92% O2 
delivery: Ra 
GENERAL: elderly man out of bed, coughing but NAD 
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, +expiratory wheezing in bibasilar regions
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding
EXTREMITIES: trace to 1+ pitting edema ___ shins
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, ___ strength ___ ___: warm and well perfused, no excoriations or lesions, no 
rashes  
 
Pertinent Results:
ADMISSION LABS
--------------
___ 01:45PM BLOOD WBC-11.0* RBC-3.77* Hgb-10.7* Hct-34.5* 
MCV-92 MCH-28.4 MCHC-31.0* RDW-16.7* RDWSD-55.8* Plt ___
___ 01:45PM BLOOD Neuts-77.2* Lymphs-9.9* Monos-11.0 
Eos-0.2* Baso-0.3 Im ___ AbsNeut-8.53* AbsLymp-1.09* 
AbsMono-1.21* AbsEos-0.02* AbsBaso-0.03
___ 01:45PM BLOOD Glucose-80 UreaN-23* Creat-1.9* Na-138 
K-5.6* Cl-98 HCO3-23 AnGap-17

___ CXR
No acute cardiopulmonary abnormality. 

DISHCARGE LABS
---------------
___ 08:15AM BLOOD WBC-7.1 RBC-3.56* Hgb-10.1* Hct-32.3* 
MCV-91 MCH-28.4 MCHC-31.3* RDW-16.2* RDWSD-54.5* Plt ___
___ 08:15AM BLOOD Glucose-93 UreaN-22* Creat-1.9* Na-141 
K-4.1 Cl-102 HCO3-24 AnGap-15
___ 08:15AM BLOOD Calcium-8.1* Phos-3.4 Mg-2.1
 
Brief Hospital Course:
Mr. ___ is a ___ man with a PMH notable for 
hypersensitivity pneumonitis (due to house mold), AFib, CKD, 
CAD, hypertension, hypothyroidism, and gout with recent 
admission 1 month prior for dyspnea (treated with abx) who 
presents with cough fever, and malaise found to be flu B 
positive. 

ACUTE ISSUES
------------
#Influenza B infection
Patient presents with cough, fever, and malaise and found to be 
flu positive. He had significant weakness on admission, not 
being able to get out of bed, though did not have new O2 
requirement. CXR without acute intrathoracic abnormality. He was 
given IVF and treated with Tamiflu x5 day course (___) and 
albuterol inhaler PRN for wheezing.

#Hypersensitivity pneumonitis
#Reactive airway disease
He has a history of significant mold exposure in his home 
therefore hypersensitivity thought to be an etiology of his 
symptoms. Per patient, on the ___ prior to admission, he 
moved from his mother in law's house (which had mold) to an 
apartment. He saw Dr ___ in ___ on ___. He 
was continued on home prednisone 20mg qd. Per clinic notes, he 
was supposed to go down 5mg/week but this taper was deferred in 
setting of acute illness. He was continued on Bactrim ppx until 
prednisone dose is tapered to 10mg. Also continued on home 
montelukast and Fluticasone-Salmeterol Diskus.

# ___ on CKD - Cr up to 2.0, up from baseline 1.6-1.7. He 
received IVF, with downtrend to 1.9.

CHRONIC ISSUES
---------------
# Paroxysmal Atrial Fibrillation - History of TIA. In sinus 
rhythm in the ED. Continued on home Rivaroxaban 15 mg PO, 
Metoprolol Succinate XL 50 mg PO DAILY, and Amiodarone 200 mg PO 
DAILY 

# Hypertension - continued home amLODIPine 10 mg PO DAILY. Home 
losartan was initially held iso ___ but it was restarted prior 
to discharge.

# Gout
Continued home allopurinol ___ mg PO BID 

# Chronic Sinusitis
Treated with loratadine (on desloratadine 5 mg at home).

# Hypothyroidism
Continued home Levothyroxine Sodium 25 mcg PO 5X/WEEK 
(___) and Levothyroxine Sodium 50 mcg PO 2X/WEEK 
(___) 

#CODE: Full (confirmed) 
#CONTACT: Name of health care proxy: ___ 
Relationship: wife 
Phone number: ___ 

TRANSITIONAL ISSUES
--------------------
[ ] Tamiflu was started and should be continued until ___ to 
complete 5 day course
[ ] Albuterol inhaler was started for wheezing.
[ ] Recheck chem 7 to monitor for improvement in Creatinine back 
to baseline
[ ] Resume downtitration of prednisone as previously scheduled - 
decrease by 5mg every week until daily dose is 10mg 
 
Medications on Admission:
1. Allopurinol ___ mg PO BID 
2. Amiodarone 200 mg PO DAILY 
3. amLODIPine 10 mg PO DAILY 
4. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
5. Levothyroxine Sodium 25 mcg PO 5X/WEEK (___) 
6. Levothyroxine Sodium 50 mcg PO 2X/WEEK (___) 
7. Losartan Potassium 100 mg PO DAILY 
8. Metoprolol Succinate XL 50 mg PO DAILY 
9. Montelukast 10 mg PO DAILY 
10. Omeprazole 20 mg PO DAILY 
11. Rivaroxaban 15 mg PO DINNER 
12. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
13. Vitamin D ___ UNIT PO 2X/WEEK (MO,WE) 
14. azelastine 137 mcg (0.1 %) nasal BID 
15. desloratadine 5 mg oral DAILY 
16. PredniSONE 20 mg PO DAILY 
17. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
18. Ketorolac 0.5% Ophth Soln 1 DROP LEFT EYE TID 

 
Discharge Medications:
1.  Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing 
RX *albuterol sulfate [ProAir HFA] 90 mcg 2 puffs every 4 hours 
as needed for wheezing Disp #*1 Inhaler Refills:*0 
2.  GuaiFENesin ___ mL PO Q6H:PRN cough 
RX *guaifenesin 100 mg/5 mL 10 mL by mouth every 6 hours as 
needed for cough Refills:*0 
3.  OSELTAMivir 30 mg PO BID 
RX *oseltamivir 30 mg 1 capsule(s) by mouth twice a day Disp #*2 
Capsule Refills:*0 
4.  Allopurinol ___ mg PO BID  
5.  Amiodarone 200 mg PO DAILY  
6.  amLODIPine 10 mg PO DAILY  
7.  azelastine 137 mcg (0.1 %) nasal BID  
8.  desloratadine 5 mg oral DAILY  
9.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
10.  Ketorolac 0.5% Ophth Soln 1 DROP LEFT EYE TID  
11.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
12.  Levothyroxine Sodium 25 mcg PO 5X/WEEK (___)  
13.  Levothyroxine Sodium 50 mcg PO 2X/WEEK (___)  
14.  Losartan Potassium 100 mg PO DAILY  
15.  Metoprolol Succinate XL 50 mg PO DAILY  
16.  Montelukast 10 mg PO DAILY  
17.  Omeprazole 20 mg PO DAILY  
18.  PredniSONE 20 mg PO DAILY 
Please continue dose decrease as planned - decrease daily dose 
by 5mg every week until at 10mg daily  
19.  Rivaroxaban 15 mg PO DINNER  
20.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  
21.  Vitamin D ___ UNIT PO 2X/WEEK (MO,WE)  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
PRIMARY
--------
influenza infection
hypersensitivity pneumonitis
reactive airway disease
acute kidney failure on chronic kidney disease

SECONDARY
---------
atrial fibrillation
hypertension
gout
chronic sinusitis
hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

You presented to ___ hospital because you had a cough 
and were feeling weak.

While in the hospital, you were found to have the flu. You were 
treated with medicine and fluids through an IV, and you began to 
feel better.

After leaving the hospital, it is important that you continue 
taking your medication as prescribed. You should also follow up 
with your doctor in clinic.

We wish you the best,

Your ___ medicine team
 
Followup Instructions:
___